US08357711B2
(5-Oxo-bicyclo[2.2.2]oct-2-yl)-carbamic acid tert-butyl ester
5-Oxo-bicyclo[2.2.2]octane-2-carboxylic acid (Preparation 74, 314 g, 1.87 mol, 1.0 eq) was taken up in tert-butanol (1.8 L) and cooled to 17° C. Et3N (289 mL, 2.06 mol, 1.1 eq) was added dropwise while the temperature was kept below 21° C. After addition, the reaction mixture was stirred for an additional 90 minutes before diphenylphosphoryl azide (405 mL, 1.87 mol, 1.0 eq) was added in a dropwise fashion over 45 minutes while nitrogen gas evolves. After addition the reaction mixture was heated to 40° C. with a waterbath overnight and more nitrogen gas evolved. The reaction mixture was heated to reflux for 5½ hours after which the mixture was concentrated to ˜1.5 L at 55° C. The residue was parted between water (2.0 L) and tert-butyl methyl ether (1.0 L). The aqueous layer was extracted with tert-butyl methyl ether (4×500 mL). The combined organic layers were washed with water (500 mL), 1M sodium hydroxide solution (500 mL) and water (500 mL). The combined aqueous layers were extracted with diethyl ether (500 mL). The combined organic layers were dried over sodium sulfate and concentrated at 40° C. to give a tan solid (279 g, 1.17 mol, 63%).

reactant | 5-Oxo-bicyclo[2.2.2]octane-2-carboxylic acid | 1.87 mol, 314 g, 1.0 eq | O=C1C2CC(C(C1)CC2)C(=O)O | C9H12O3
reactant | Et3N | 2.06 mol, 289 mL, 1.1 eq | CCN(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.87 mol, 405 mL, 1.0 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 1.8 L | C(C)(C)(C)O | C4H10O
product | (5-Oxo-bicyclo[2.2.2]oct-2-yl)-carbamic acid tert-butyl ester | 1.17 mol, 279 g, 63% | C(C)(C)(C)OC(NC1C2CC(C(C1)CC2)=O)=O | C13H21NO3
